US09023865B2
A flask was charged with 6-chloro-1H-pyrazolo[4,3-c]pyridine (3 g, 19.54 mmol), iodine (13.11 g, 51.7 mmol), KOH (3.29 g, 58.6 mmol) and DMF (60 mL) (Note: heat generated during adding DMF). The mixture was heated at 40° C. for 16 h and then additional iodine (7.8 g, 30.7 mmol) and KOH (1.6 g, 28.4 mmol) were added. The mixture was heated at 70° C. for 3 h and then quenched with 1N Na2S2O3 and extracted with EtOAc. The organic phase was washed with water, brine and dried (Na2SO4). After evaporation of volatiles DCM was added. A solid precipitated and filtrated off to yield 6-chloro-3-iodo-1H-pyrazolo[4,3-c]pyridine (3.2 g, 11.51 mmol, 59%), which was carried out in the next step without further purification. MS ESI calc'd. for C6H4ClIN3 [M+1]+ 280, found 280.

reactant | 6-chloro-1H-pyrazolo[4,3-c]pyridine | 19.54 mmol, 3 g | ClC1=CC2=C(C=N1)C=NN2 | C6H4ClN3
reactant | iodine | 51.7 mmol, 13.11 g | II | I2
reactant | KOH | 58.6 mmol, 3.29 g | [OH-].[K+]
reactant | iodine | 30.7 mmol, 7.8 g | II | I2
reactant | KOH | 28.4 mmol, 1.6 g | [OH-].[K+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 6-chloro-3-iodo-1H-pyrazolo[4,3-c]pyridine | 11.51 mmol, 3.2 g, 59% | ClC1=CC2=C(C=N1)C(=NN2)I | C6H3ClIN3
